### PR TITLE
[Merged by Bors] - feat: Reproducing Kernel Hilbert Spaces and Moore's theorem

### PR DESCRIPTION
**Pull request by Maldooor**
We define vector-valued reproducing Kernel Hilbert spaces, which are Hilbert spaces of
functions, as well as characterize these spaces in terms of infinite-dimensional
positive semidefinite matrices.

Co-authored-by: Yaël Dillies <yael.dillies@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by YaelDillies — APPROVED** [review]
I have extensively reviewed this PR in person and rewritten parts of it. Hence I am happy with it, but shouldn't be merging it.

maintainer merge?

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 1]
```diff
@@ -0,0 +1,300 @@
...
+namespace RKHS
+
+variable {𝕜 : Type*} [RCLike 𝕜]
+variable {X : Type*}
+variable {V : Type*} [NormedAddCommGroup V] [InnerProductSpace 𝕜 V]
+variable {H : Type*} [NormedAddCommGroup H] [InnerProductSpace 𝕜 H]
+variable [RKHS 𝕜 H X V]
+
+/--
+Each element of a reproducing kernel Hilbert space may be coerced into a function
```
Comment (faenuccio) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
Each element of a reproducing kernel Hilbert space may be coerced into a function.
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 2]
```diff
@@ -0,0 +1,300 @@
...
+  simp [kerFun, ← adjoint_inner_left]
+
+/-- The "reproducing" property of the kernel.
+-/
+lemma kernel_inner (x y : X) (v w : V) :
+    ⟪kernel H x y v, w⟫_𝕜 = ⟪kerFun H y v, kerFun H x w⟫_𝕜 := by
+  simp [← adjoint_inner_left, kernel]
+
+/-- The span of the kernel functions is dense. -/
+theorem kerFun_dense : topologicalClosure (span 𝕜 {kerFun H x v | (x) (v)}) = ⊤ := by
```
Comment (faenuccio) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean:134]: Don't you want to also add a version with `DenseRange`?

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 3]
```diff
@@ -0,0 +1,300 @@
...
+variable (H) in
+/-- The kernel is a positive semidefinite matrix.
+-/
+theorem posSemidef_kernel : (kernel H).PosSemidef := by
+  refine ⟨isHermitian_kernel H, fun s ↦ (ContinuousLinearMap.isPositive_iff' _).2 ⟨?_, fun v ↦ ?_⟩⟩
+  · rw [IsSelfAdjoint, sub_zero, star_finsuppSum, Finsupp.sum_comm]
+    simp [← mul_assoc, (isHermitian_kernel H).apply]
+  · simp [Finsupp.sum_apply'', Finsupp.sum_inner, star, adjoint_inner_left,
+      kernel_inner, -inner_kerFun, -kerFun_inner]
+    simp only [← Finsupp.sum_inner, ← Finsupp.inner_sum,
```
Comment (faenuccio) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: Is there a reason why you squeeze this?

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 4]
```diff
@@ -0,0 +1,300 @@
...
+    congr! 6
+    rw [← (Fact.out : K.PosSemidef).isHermitian.apply]
+    simp [star, adjoint_inner_right, mul_comm]
+  add_left _ _ _ := by
+    rw [Finsupp.sum_add_index'] <;> simp [← Finsupp.sum_add, add_mul]
+  smul_left _ _ _ := by
+    rw [Finsupp.sum_smul_index] <;> simp [Finsupp.mul_sum, ← mul_assoc]
+  re_inner_nonneg := by
+    have := (posSemidef_tfae.out 0 1).mp (Fact.out : K.PosSemidef)
+    exact this.2
```
Comment (faenuccio) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean:228]: Can't you compress the last two lines?

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 5]
```diff
@@ -0,0 +1,300 @@
...
+instance instInnerProductSpaceH₀ : InnerProductSpace 𝕜 (H₀ K) :=
+  .ofCore instPreInnerProductSpaceCoreH₀
+
+private lemma inner_H₀_def (f g : H₀ K) :
+    ⟪f, g⟫_𝕜 = f.sum fun ⟨y, u⟩ z ↦ g.sum fun ⟨x, v⟩ w ↦ star z * w * ⟪K x y u, v⟫_𝕜 := rfl
+
+variable (K) in
+/-- The reproducing kernel Hilbert space generated by a positive semidefinite matrix. -/
+abbrev OfKernel := UniformSpace.Completion (H₀ K)
+--deriving SeminormedAddCommGroup, InnerProductSpace 𝕜, CompleteSpace
```
Comment (faenuccio) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean:242]: Is this comment a leftover?

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 6]
```diff
@@ -0,0 +1,300 @@
...
+  toFun v := .coe' (.single ⟨x, v⟩ 1)
+  map_add' _ _ := by
+    refine UniformSpace.Completion.denseRange_coe.eq_of_inner_left 𝕜 fun f ↦ ?_
+    simp [inner_add_left, inner_H₀_def, ← Finsupp.sum_add, ← mul_add]
+  map_smul' _ _ := by
+    refine UniformSpace.Completion.denseRange_coe.eq_of_inner_left 𝕜 fun f ↦ ?_
+    simp [inner_smul_left, inner_H₀_def, Finsupp.mul_sum, ← mul_assoc, mul_comm]
+
+variable (K) in
+/-- Explicit formula for the kernel functions of `OfKernel`, use `RKHS.kerFun` instead. -/
```
Comment (faenuccio) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: What do you mean by "instead"? Can you rephrase and perhaps add a sentence about why you suggest to use the other formulation?

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Analysis/InnerProductSpace/Reproducing.lean:134]: It's a function in two variables, so `DenseRange` doesn't apply

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Analysis/InnerProductSpace/Reproducing.lean:228]: No, elaboration of `TFAE.out` is too brittle

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Analysis/InnerProductSpace/Reproducing.lean:242]: This goes with the TODO to privatise it

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: They are equal functions, but the latter cannot be used before the `RKHS (OfKernel K)` instance is declared, which in turn requires the former

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean (hunk 3 above)
Comment (Maldooor) [reply Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: Unsqueezed it

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean (hunk 5 above)
Comment (faenuccio) [reply Mathlib/Analysis/InnerProductSpace/Reproducing.lean:242]: Well, but that one is 210 lines above this, and likely not to be parsed together. Can you add a "ToDo" here as well, or something?

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean (hunk 6 above)
Comment (faenuccio) [reply Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: I see, can you add these details to the comment?

Comment (Maldooor) [reply Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: Added a longer comment, hopefully it's clearer now!

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean (hunk 5 above)
Comment (Maldooor) [reply Mathlib/Analysis/InnerProductSpace/Reproducing.lean:242]: Added a TODO

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 7]
```diff
@@ -0,0 +1,301 @@
...
+  map_add' _ _ := by
+    refine UniformSpace.Completion.denseRange_coe.eq_of_inner_left 𝕜 fun f ↦ ?_
+    simp [inner_add_left, inner_H₀_def, ← Finsupp.sum_add, ← mul_add]
+  map_smul' _ _ := by
+    refine UniformSpace.Completion.denseRange_coe.eq_of_inner_left 𝕜 fun f ↦ ?_
+    simp [inner_smul_left, inner_H₀_def, Finsupp.mul_sum, ← mul_assoc, mul_comm]
+
+variable (K) in
+/-- Explicit formula for the kernel functions of `OfKernel` which is used for `OfKernel.instRKHS`.
+While `OfKernel.kerFun` and `RKHS.kerFun` are equal, `RKHS.kerFun` should be used in practize. -/
```
Comment (faenuccio) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
While `OfKernel.kerFun` and `RKHS.kerFun` are equal, `RKHS.kerFun` should be used in practice. -/
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 8]
```diff
@@ -253,7 +254,8 @@ private abbrev kerFunAux (x : X) : V →ₗ[𝕜] UniformSpace.Completion (H₀
     simp [inner_smul_left, inner_H₀_def, Finsupp.mul_sum, ← mul_assoc, mul_comm]
 
 variable (K) in
-/-- Explicit formula for the kernel functions of `OfKernel`, use `RKHS.kerFun` instead. -/
+/-- Explicit formula for the kernel functions of `OfKernel` which is used for `OfKernel.instRKHS`.
+While `OfKernel.kerFun` and `RKHS.kerFun` are equal, `RKHS.kerFun` should be used in practize. -/
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: What about
```suggestion
/-- Explicit description of the kernel functions of `OfKernel K`.

 This is marked as private because it always equals `RKHS.kerFun` and must be defined separately
 only because the `RKHS.kerFun` spelling depends on the `RKHS (OfKernel K)` instance, which itself
 depends on `OfKernel.kerFun`. -/
```

Comment (Maldooor) [reply Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: Added a version of this
